US09034866B2
Synthesis of (R)-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-N3-methyl-4,5-dihydrobenzo[b]pyrazol o[1,5-d][1,4]oxazepine-2,3-dicarboxamide
Similar to as described in General Procedure G, 9-bromo-N3-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2,3-dicarboxamide was reacted with (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one to give the titled compound as a brown solid (32 mg, 25%).

reactant | 9-bromo-N3-methyl-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2,3-dicarboxamide | BrC1=CC2=C(OCCC=3N2N=C(C3C(=O)NC)C(=O)N)C=C1 | C14H13BrN4O3
reactant | (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
product | (R)-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-N3-methyl-4,5-dihydrobenzo[b]pyrazol o[1,5-d][1,4]oxazepine-2,3-dicarboxamide | 32 mg, 25% | O[C@@]1(C(N(CC1)C)=O)C#CC1=CC2=C(OCCC=3N2N=C(C3C(=O)NC)C(=O)N)C=C1 | C21H21N5O5
